US04656189
Thus 5 gm of 3,4-dimethoxyphenol; 6.88 g acrylonitrile and 0.5 ml. of Triton B, trade name of N-Benzyltrimethylammonium hydroxide, (40% soln.), were combined and refluxed for 18 hours. After cooling the reaction mixture was extracted with chloroform and washed with 5% sodium hydroxide, and with saturated salt solution. The organic layer after drying over anhydrous sodium sulfate gave 4.4 gm of 3,4-dimethoxy phenoxy propionitrile on removal of the solvent. The amount of 2.2 g of the nitrile was combined with 40 ml. of water and 80 ml. of concentrated hydrochloric acid and refluxed for 2 hours. The reaction mixture on cooling was extracted with ether and washed with water and 5% sodium hydroxide. The basic wash was acidified with 6N hydrochloric acid and extracted twice with ether. The ethereal extract was washed twice with water and with saturated salt solution. Drying over anhydrous sodium sulfate and removal of the solvent in vacuo gave 1.25 g of the crude 3,4-dimethoxy phenoxy propionic acid. The crude product was combined with 5 gm of polyphosphoric acid and heated at 75°-85° C. for 1 hour. The reaction mixture was extracted with ether and washed with 10% sodium carbonate solution and saturated salt solution. Drying over anhydrous sodium carbonate and removal of the solvent gave 0.35 gm of pure 6,7-dimethoxy chromanone. The chromanone was dissolved in 50 ml. dry ether and refluxed 1 hour with an excess of lithium aluminum hydride. On cooling, the reaction was stopped by addition of 10 ml. of water and then stirred for 15 minutes with 10 ml. of 2N hydrochloric acid. The reaction mixture was extracted with ether and washed with water and saturated salt solution to give on drying and removal of the solvent 0.31 gm of pure 6,7-dimethoxy chromene.

reactant | 3,4-dimethoxyphenol | 5 gm | COC=1C=C(C=CC1OC)O | C8H10O3
reactant | acrylonitrile | 6.88 g | C(C=C)#N | C3H3N
reactant | N-Benzyltrimethylammonium hydroxide | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
product | 3,4-dimethoxy phenoxy propionitrile | 4.4 gm | COC=1C=C(OC(C#N)C)C=CC1OC | C11H13NO3
